US05091384
Preparation of 3,7-bis-p-toluenesulfonyl-3,7-diazabicyclo [3.3.0]oct-1(5)-ene
30 g of tetrakis (bromomethyl)ethylene and 30 g of p-toluene sulfonamide were dissolved in 400 ml of dimethylformamide. 150 g of potassium carbonate anhydride (or 50% sodium hydride 17 g) was added and then stirred at room temperature for 24 hours. Thereafter, this reaction mixture was distilled under vacuum to remove solvents. By adding 30 ml of water and 100 ml of ethylacetate, 17 g of the title compound was obtained as pale yellow powder (yield 50%).

reactant | tetrakis (bromomethyl)ethylene | 30 g | BrCC(=C(CBr)CBr)CBr | C6H8Br4
reactant | p-toluene sulfonamide | 30 g | CC=1C=CC(=CC1)S(=O)(=O)N | C7H9NO2S
reactant | sodium hydride | 17 g | [H-].[Na+]
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 3,7-bis-p-toluenesulfonyl-3,7-diazabicyclo [3.3.0]oct-1(5)-ene | 17 g | C1(=CC=C(C=C1)S(=O)(=O)N1CC=2CN(CC2C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C20H22N2O4S2
